US05688481
Kemp, The Chemistry of Borates, Part I, page 70 (1956), reported that an aqueous solution of boric acid kept at 40° C. for 3 weeks deposits a mixture of CaO·3B2O3 ·4H2O and 2CaO·3B2O3 ·9H2O. Kemp also reported that CaO·3B2O3 ·8H2O decomposes to form CaO·3B2O3 ·4H2O. According to Supplement to Mellor's Comprehensive Treatise on Inorganic and Theoretical Chemistry, Volume V, Part A: Boron-Oxygen Compounds, pages 550-551 (1980), CaO·3B2O3 ·4H2O occurs as a solid phase in the systems Na2O--CaO--B2O3 --H2O and CaO--NaCl--B2O3 --H2O at 25° C. and pH 5.5-6.5. Hydrothermal treatment of meyerhofferite in boric acid solution at 85-250° C. produced crystals of both the tetrahydrate and pentahydrate together with ginerite (2CaO·7B2 O3·8H2O).

reactant | Boron Oxygen | [B].O=O
reactant | H2O | O | H2O
solvent | boric acid | B(O)(O)O | BH3O3
product | O3·8H2O | O=[O+][O-].O.O.O.O.O.O.O.O | InChI=1S/O3.8H2O/c1-3-2;;;;;;;;/h;8*1H2
